US06855716B2
Synthesis of 4-(3-chlorophenyl)-3-ethoxycarbonyl-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide
117 mg (0.346 mmol) of 4-(3-chlorophenyl)-3-ethoxycarbonyl-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid and 110 mg (0.519 mmol) of 3,3-diphenylpropylamine were dissolved in 10 ml of dichloromethane. 99.5 mg (0.519 mmol) of WSC hydrochloride was added to the obtained solution under cooling with ice, and they were stirred at room temperature overnight. After the concentration under reduced pressure, the reaction mixture was diluted with ethyl acetate and then washed with 1 N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was washed with hexane/ethyl acetate (1/1) and then dried under reduced pressure to obtain the title compound.

reactant | 4-(3-chlorophenyl)-3-ethoxycarbonyl-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | 0.346 mmol, 117 mg | ClC=1C=C(C=CC1)C1N(C(NC(=C1C(=O)O)C)=O)C(=O)OCC | C15H15ClN2O5
reactant | 3,3-diphenylpropylamine | 0.519 mmol, 110 mg | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | WSC hydrochloride | 0.519 mmol, 99.5 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(3-chlorophenyl)-3-ethoxycarbonyl-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide | C1(=CC=CC=C1)C(CCNC(=O)C=1C(N(C(NC1C)=O)C(=O)OCC)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C30H30ClN3O4
